US07132426B2
Step 1: Preparation of 3-fluoro-4-hydrazino-benzenesulfonamide.
In a 500 mL round-bottomed flask fitted with a condenser and N2 inlet septum was placed a stir bar, 3,4-difluoro-benzenesulfonamide (10 g, 52 mmol), anhydrous hydrazine (10.56 mL, 336 mmol), and acetonitrile (180 mL). The mixture was refluxed for 6 h under N2. The solvent was then removed under vacuum and the residue was treated with H2O. The separated solid was filtered and washed with H2O to give the desired product. Exact mass calculated for C6H8FN3O2S 205.03, found 206.1 (MH+).

reactant | 3,4-difluoro-benzenesulfonamide | 52 mmol, 10 g | FC=1C=C(C=CC1F)S(=O)(=O)N | C6H5F2NO2S
reactant | hydrazine | 336 mmol, 10.56 mL | NN | H4N2
solvent | acetonitrile | 180 mL | C(C)#N | C2H3N
product | 3-fluoro-4-hydrazino-benzenesulfonamide | FC=1C=C(C=CC1NN)S(=O)(=O)N | C6H8FN3O2S
